US05389640
1-(2-Methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol
3-Nitro-4-(2-methylpropylamino)quinoline (36.8 g; 0.15 mol) was added to a mixture of ethyl acetate (300 mL), 5% Pt/C (about 1 g), and magnesium sulfate (30 g). The mixture was hydrogenated at about 50 psi initial pressure. When hydrogenation was complete the solids were filtered from the mixture and the ethyl acetate was evaporated. The resulting intermediate diamine was mixed with glycolic acid (26.9 g; 0.35 mol) and the mixture was heated at 150°-160° C. for about 3 hr with occasional manual stirring. The reaction mixture was then dissolved in dilute hydrochloric acid and treated with decolorizing carbon, and the solids were filtered from the mixture. The filtrate was made basic with ammonium hydroxide to precipitate the product as a greenish solid. The solid was filtered and dried to give 34.3 g (89.6%) of crude product. The solid was reprecipitated a second time as above and the product recrystallized from ethyl acetate to give greenish crystals, m.p. 165°-168° C.

reactant | 3-Nitro-4-(2-methylpropylamino)quinoline | 0.15 mol, 36.8 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC(C)C | C13H15N3O2
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
reactant | magnesium sulfate | 30 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | glycolic acid | 0.35 mol, 26.9 g | C(CO)(=O)O | C2H4O3
solvent | hydrochloric acid | Cl | ClH
catalyst | Pt/C | about 1 g | [Pt] | Pt
product | 1-(2-Methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol | 34.3 g, 89.6% | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CO)C | C15H17N3O
